US08357693B2
To a solution of 2-methoxyethyl 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoate (5.0 g, 15.2 mmol) in EtOH (40 mL) was added 2N NaOH (40 mL, 76.0 mmol, 5 eq.). The mixture was stirred at RT for 12 h. The mixture was diluted with water (100 mL) and washed with CH2Cl2 (1×100 mL). The aqueous layer was acidified to pH=1 using 1N HCl (A solid began to precipitate, this was dissolved by the addition of EtOAc). The aqueous mixture was extracted with EtOAc (2×200 mL). The combined organics were washed with brine (1×100 mL), dried (Na2SO4), filtered and concentrated in vacuo to give 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoic acid as an off white solid (3.55 g, 12.4 mmol, 86%). HPLC retention time 4.94 mins.

reactant | 2-methoxyethyl 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoate | 15.2 mmol, 5.0 g | COC1=CC(=C(C(=O)OCCOC)C=C1OCCOC)[N+](=O)[O-] | C14H19NO8
reactant | NaOH | 76.0 mmol, 2N, 40 mL, 5 eq. | [OH-].[Na+]
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoic acid | COC1=CC(=C(C(=O)O)C=C1OCCOC)[N+](=O)[O-] | C11H13NO7
